US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4-dihydro-6-(phenylsulfonyl)-1,4-methanonaphthalene-5,8-diol.
38 g, of 1,2,3,4,9,9-hexachloro-1,4-dihydro-1,4-methanonaphthalene-5,8-dione, prepared as in Example 3, were dissolved in 200 ml. of ethanol and 18 g. of freshly generated benzenesulfonyl chloride were added. This mixture was refluxed for 5 hours and a white precipitate formed. The white solid was filtered off while hot and was recrystallized from benzene yielding white crystals, m.p. 215°-216° C.

reactant | 1,2,3,4,9,9-hexachloro-1,4-dihydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C=3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H2Cl6O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,4,9,9-hexachloro-1,4-dihydro-6-(phenylsulfonyl)-1,4-methanonaphthalene-5,8-diol | ClC12C(=C(C(C=3C(=C(C=C(C13)O)S(=O)(=O)C1=CC=CC=C1)O)(C2(Cl)Cl)Cl)Cl)Cl | C17H8Cl6O4S
